US20010053788A1
Part C: To a solution of 1-(2-aminoethyl)-3-(4-chlorophenyl)-4,5-dihydro-4-phenyl-1H-pyrazole (0.56 gram, 1.87 mmol) and diisopropylethylamine in acetonitrile (20 ml) was added 3-(trifluoromethyl)phenylsulfonyl chloride (0.35 ml, 2.18 mmol) and the resulting solution was stirred at room temperature for 20 minutes. After concentration in vacuo the residue was dissolved in ethylacetate and washed with 2 N sodium hydroxide solution. The ethylacetate layer was concentrated in vacuo. The resulting oil was crystallised from a small amount of diisopropyl ether to afford crystalline N-[2-(3-(4-chlorophenyl)-4,5-dihydro-4-phenyl-1H-pyrazol-1-yl)ethyl]-3-(trifluoromethyl)benzenesulfonamide (0.44 gram, 46% yield). Melting point: 94-96° C.

reactant | 1-(2-aminoethyl)-3-(4-chlorophenyl)-4,5-dihydro-4-phenyl-1H-pyrazole | 1.87 mmol, 0.56 gram | NCCN1N=C(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C17H18ClN3
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(trifluoromethyl)phenylsulfonyl chloride | 2.18 mmol, 0.35 ml | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-[2-(3-(4-chlorophenyl)-4,5-dihydro-4-phenyl-1H-pyrazol-1-yl)ethyl]-3-(trifluoromethyl)benzenesulfonamide | 0.44 gram, 46% yield | ClC1=CC=C(C=C1)C1=NN(CC1C1=CC=CC=C1)CCNS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C24H21ClF3N3O2S
